US05780631
(i) 1-Benzyloxycarbonylamidino-4-hydroxyethyl piperidine
(0.028 mol) of N-benzyloxycarbonyl-S-methyl isothiourea in 50 ml of acetonitrile was refluxed overnight. Evaporation and flash chromatography on silica gel with ethyl acetate gave 3.5 g (41%) of the title compound.

reactant | N-benzyloxycarbonyl-S-methyl isothiourea | 0.028 mol | C(C1=CC=CC=C1)OC(=O)NC(SC)=N | C10H12N2O2S
reactant | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 1-Benzyloxycarbonylamidino-4-hydroxyethyl piperidine | 3.5 g, 41% | C(C1=CC=CC=C1)OC(=O)NC(=N)N1CCC(CC1)CCO | C16H23N3O3
